US07576122B2
1-{5-Methoxy-3-[2-(cis-octahydroisoquinolin-2(1H)-yl)-2-oxoethyl]-1-benzofuran-2-yl}-2,2-dimethylpropan-1-one
Dissolve a mixture of 17 mg [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetic acid from the Step B Example 1 and 18.5 mg HOBt in 1 mL dry DMF. Add 12.3 mg cis-decahydroisoquinoline followed by 23.0 mg EDC and 35 μL DIEA. This solution was heated at 40° C. for 2 hours. It was purified directly on RP-HPLC using 65-100% MeCN gradient. The fractions containing pure product were pooled and lyophilized to give the title compound. LC-MS: 4.41 min. (m/Z=412.3, 328.2, 434.2).

reactant | [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetic acid | 17 mg | CC(C(=O)C=1OC2=C(C1CC(=O)O)C=C(C=C2)OC)(C)C | C16H18O5
reactant | HOBt | 18.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cis-decahydroisoquinoline | 12.3 mg | C1NCC[C@@H]2CCCC[C@H]12 | C9H17N
reactant | DIEA | 35 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EDC | 23.0 mg
product | 1-{5-Methoxy-3-[2-(cis-octahydroisoquinolin-2(1H)-yl)-2-oxoethyl]-1-benzofuran-2-yl}-2,2-dimethylpropan-1-one | COC=1C=CC2=C(C(=C(O2)C(C(C)(C)C)=O)CC(=O)N2C[C@H]3CCCC[C@H]3CC2)C1 | C25H33NO4
